US06376701B1
A mixture of 1 equivalent of methyl acetoacetate, 1 equivalent of cyclohexanol and 100 mg of sulfated tin oxide catalyst prepared according to example 1 above, in 20 ml of toluene was heated to 110° C. in a two necked round bottom flask provided with a distillation condenser to remove methanol. The reaction was monitored by thin layer chromatography (TLC). After completion of the reaction (about 6 hours), the catalyst was filtered and the filtrate was concentrated and chromatographed on a silica gel column (95% petroleum ether and 5% ethyl acetate) to afford cyclohexyl acetoacetate as a viscous colorless liquid in 84% yield.

reactant | methyl acetoacetate | 1 equivalent | C(CC(=O)C)(=O)OC | C5H8O3
reactant | cyclohexanol | 1 equivalent | C1(CCCCC1)O | C6H12O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | cyclohexyl acetoacetate | 84% yield | C(CC(=O)C)(=O)OC1CCCCC1 | C10H16O3
